US09102899B2
Sodium (9.2 g, 0.4 mol) is dissolved in methanol (130 ml) and benzylcyanide (46.8 g, 0.40 mol) is added, followed by the careful addition of a solution of 3-methyl-2-butenal (40.3 g, 0.48) in methanol (100 ml). The resulting suspension is stirred for 20 h at room temperature and then worked up following the procedure described in Example 2. The crude product is crystallized twice from hexane to yield 5-methyl-2-phenyl-hexa-2,4-diene nitrile (44.9 g, 61%), m.p. 66-67° C.

reactant | Sodium | 0.4 mol, 9.2 g | [Na] | Na
reactant | benzylcyanide | 0.40 mol, 46.8 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | 3-methyl-2-butenal | 40.3 g | CC(=CC=O)C | C5H8O
solvent | methanol | 130 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 5-methyl-2-phenyl-hexa-2,4-diene nitrile | 44.9 g, 61% | CC(=CC=C(C#N)C1=CC=CC=C1)C | C13H13N
